US06177440B1
A solution of the 9-[(3,5-dimethylphenyl)methyl]-4-hydroxy-5-carbomethoxy carbazole (200 mg, 0.55 mM) in 10 mL THF and 30 mL concentrated aqueous ammonium hydroxide was sonicated for 4 days at 40-50° C. The mixture was diluted with ethyl acetate and acidified to pH 2.5 with 5 N HCl. The aqueous layer was extracted three times with ethyl acetate. The combined organic extracts were washed with saturated brine, dried over magnesium sulfate, filtered, and concentrated. The residue was purified by column chromatography on silica gel (elution with gradient hexanes/ethyl acetate) to afford 90 mg (47%) of the 9-[(3,5-dimethylphenyl)methyl]-4-hydroxy-5-carbamoyl carbazole as an off-white solid. 1H NMR (DMSO-d6) δ 10.5 (s, 1H), 8.6 (s, 1H), 8.4 (s, 1H), 7.75 (d, 1H, J=8 Hz), 7.45 (m, 2H), 7.3 (t, 1H, J=8 Hz), 7.1 (d, 1H, J=8 Hz), 6.85 (s, 1H), 6.7 (s, 2H), 6.6 (d, 1H, J=8 Hz), 5.6 (s, 2H), and 2.2 (s, 6H). IR (KBr, cm−1) 3417, 3198, 3113, 3063, 1631, 1601, 1562, 1438, 1332, 1263, 1217, 781, and 773. MS (ES) m/e 343, 345.

reactant | 9-[(3,5-dimethylphenyl)methyl]-4-hydroxy-5-carbomethoxy carbazole | 0.55 mM, 200 mg | CC=1C=C(C=C(C1)C)CN1C2=CC=CC(=C2C=2C(=CC=CC12)O)C(=O)OC | C23H21NO3
reactant | HCl | 5 N | Cl | ClH
reactant | ammonium hydroxide | 30 mL | [OH-].[NH4+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 9-[(3,5-dimethylphenyl)methyl]-4-hydroxy-5-carbamoyl carbazole | 90 mg, 47% | CC=1C=C(C=C(C1)C)CN1C2=CC=CC(=C2C=2C(=CC=CC12)O)C(N)=O | C22H20N2O2
